US05409943
(b) N-[3-(2-Methylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)guanidine
A mixture of N-[3-(2-methylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea (0.99 g, 0.0026 mol), yellow mercuric oxide (0.67 g, 0.003 mol) and methanolic ammonia solution (40 ml) was stirred at room temperature for 48 hours. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent and recrystallisation from acetonitrile gave the desired product. Yield 0.59 g (62%), m.p. 158°-159 ° C.

reactant | N-[3-(2-methylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | 0.0026 mol, 0.99 g | CC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C=CC=C1 | C20H18ClN3OS
reactant | ammonia | 40 ml | N | H3N
product | N-[3-(2-Methylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)guanidine | CC1=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=C(C=C2)Cl)C=CC=C1 | C20H19ClN4O
